US05574042
A mixture of 8-hydroxy-2-methylimidazo[1,2-a]pyridine (207 mg), 2,6-dichloro-3-nitrobenzyl bromide (400 mg) and potassium carbonate (580 mg) in N,N-dimethylformamide (8 ml) was stirred for 2 hours at 60° C. The mixture was cooled and diluted with water. The separated oil was extracted with dichloromethane. The organic layer was washed with water, dried, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to give 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine (120 mg) as crystals.

reactant | 8-hydroxy-2-methylimidazo[1,2-a]pyridine | 207 mg | OC=1C=2N(C=CC1)C=C(N2)C | C8H8N2O
reactant | 2,6-dichloro-3-nitrobenzyl bromide | 400 mg | ClC1=C(CBr)C(=CC=C1[N+](=O)[O-])Cl | C7H4BrCl2NO2
reactant | potassium carbonate | 580 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 120 mg | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC=C1[N+](=O)[O-])Cl | C15H11Cl2N3O3
